US20010047031A1
(2RS,3R)-4-[1-(2-Fluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol (0.56 g, 1.62 mmol) was dissolved in MeOH (50 ml), cooled to 0° C. and treated with oxone (0.5 g, 0.81 mmol). After 4 hours stirring at 0° C., reaction mixture was quenched with saturated NaHCO3 (65 ml). Aqueous phase was extracted with CH2Cl2 (6 times). Combined organic phases were dried over Na2SO4 and the solvent was evaporated. The residue was chromatographed by MPLC over silica gel (CH2Cl2-MeOH, 99:1 then 98:2) then by preparative HPLC (EtOH-heptane, 08:92, detection at 254 nm) to provide (2R,3R, S-oxide R)-4-[1-(2-fluoro-4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol (30 mg, first fraction, 5%), MS: m/e =362.2 (M+H+).

reactant | (2RS,3R)-4-[1-(2-Fluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol | 1.62 mmol, 0.56 g | FC(CN1C[C@@H](CC1)SC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H24FNOS
reactant | oxone | 0.81 mmol, 0.5 g | OOS(=O)[O-].[K+]
solvent | MeOH | 50 ml | CO | CH4O
product | 4-[1-(2-fluoro-4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol | 30 mg, 5% | FC(CN1CC(CC1)S(=O)C1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H24FNO2S
